US05849764
Step 10B (3,5-dimethylphenyl)-(2-methylcyclopropyl)methanone
To a solution of 5-bromo-meta-xylene (5.7 mL in 120 mL of dry tetrahydrofuran) at -78° C. was added 30.6 mL of a 1.4M solution of n-butyllithium in hexane and the mixture stirred at low temperature. After 15 minutes, a solution of 2-methylcyclopropanecarboxylic acid N-methoxy-N-methyl-amide (5.0 g in 50 mL tetrahydrofuran) was added dropwise over 5 minutes and the mixture then allowed to warm slowly to room temperature. After 1 hour, the reaction was quenched by the addition of 20 mL 2N hydrochloric acid and 40 mL water. This was extracted with ethyl acetate washed with saturated sodium bicarbonate and brine then dried over sodium sulfate to give 6.95 g of the title compound (crude).

reactant | 5-bromo-meta-xylene | 5.7 mL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-methylcyclopropanecarboxylic acid N-methoxy-N-methyl-amide | 50 mL, 5.0 g | CON(C(=O)C1C(C1)C)C | C7H13NO2
solvent | hexane | CCCCCC | C6H14
product | (3,5-dimethylphenyl)-(2-methylcyclopropyl)methanone | 6.95 g | CC=1C=C(C=C(C1)C)C(=O)C1C(C1)C | C13H16O
